US04581349
2-Nitro-1,4-dimethoxybenzene
To a mixture of 100 ml concentrated nitric acid and 200 ml water is added 34.20 (0.30 mole) 1,4-dimethoxybenzene over a period of half an hour. After an additional fifteen minutes of stirring, the mixture is poured over ice. The resulting crystals are collected by filtration and crystallized from ethanol yielding bright yellow needles with a melting point of 68°-70° C.

reactant | nitric acid | 100 ml | [N+](=O)(O)[O-] | HNO3
reactant | 1,4-dimethoxybenzene | COC1=CC=C(C=C1)OC | C8H10O2
solvent | water | 200 ml | O | H2O
product | 2-Nitro-1,4-dimethoxybenzene | [N+](=O)([O-])C1=C(C=CC(=C1)OC)OC | C8H9NO4
